US09428465B2
Step 1. Preparation of 5-(4-methylpiperazin-1-yl)-1H-pyrimidine-2,4-dione
The title compound was obtained according to the procedure described for the synthesis of Example 10 (Step1), starting from 5-bromouracil (0.10 g, 0.52 mmol) and 20 equivalents of 1-methyl piperazine. The crude was purified by washing with water (10 dichloromethane (5 mL) and then collected by dispersion in EtOAc. (10 mL). The solvent was removed by evaporation to afford the title compound (0.15 g, 91%) as white powder. 1H NMR (400 MHz, DMSO-d6): δ 2.18 (s, 3H), 2.34-2.42 (m, 4H), 2.74-2.84 (m, 4H), 6.72 (s, 1H). 10.41 (br s, 1H), 11.04 (br s, 1H).

reactant | 5-bromouracil | 0.52 mmol, 0.10 g | BrC=1C(NC(NC1)=O)=O | C4H3BrN2O2
reactant | 1-methyl piperazine | 20 equivalents | CN1CCNCC1 | C5H12N2
product | 5-(4-methylpiperazin-1-yl)-1H-pyrimidine-2,4-dione | 0.15 g, 91% | CN1CCN(CC1)C=1C(NC(NC1)=O)=O | C9H14N4O2
